reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]([C@@:2]([C:3]([H:8])([H:9])[H:10])([C:4][O:5][H:11])[H:7])[H:6]>>[O:1]([C@@:2]1([H:7])[C:3]([H:8])([H:9])[C@:4]1([O:5][H:11])[H:10])[H:6],29.052942779181393
[O:1]1[C:2]([H:8])([H:9])[C:3]1=[C:4]=[C:5]([H:10])[H:11].[O:6]([H:7])[H:12]>>[O:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],44.54953024685122
[C:3]([C:4]#[C:5][H:11])([H:6])([H:9])[H:10].[O:1]=[C:2]([H:7])[H:8]>>[O:1]([C:2]([C:3]([C:4]#[C:5][H:11])([H:9])[H:10])([H:7])[H:8])[H:6],76.38638564581372
[C:1]([C:2]([C:3](=[O:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:4][C-:3]=[O+:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],107.72295918956699
[C:1]([C@@:2]([O:3][H:12])([C:4]([O+:5]=[C-:6][O:7][H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],30.99227486462909
[C+:2](=[C:3]=[N-:4])[H:6].[O:1]([H:5])[H:7]>>[O:1]([C:2]([C:3]#[N:4])([H:6])[H:7])[H:5],6.371631368552912
[C:1]([C:2]([O:4][H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:3]([C:5]([O:6][H:16])([H:14])[H:15])[H:12]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],36.2411607574971
[O:1]([C:2]([C:3](=[O:4])[H:9])=[C:5]=[N:6][H:8])[H:7]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7],63.798501913143596
[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C@:6]1([H:12])[O:5][C:4]([H:10])([H:11])[C:2](=[O:3])[O:7]1)([H:8])[H:9],55.90435489215611
[C:1](/[C:2](=[C:3](/[C:4][H:11])[C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]#[C:4][H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],40.66383440340459
[N:1]([C@@:2]1([O+:6]=[C-:5][H:11])[O:3][C:4]1([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])([H:7])[H:8],26.712148890646986
[N:1](=[C:2](/[O:3][C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:6](=[C:5])[H:11])([H:9])[H:10])[H:8])\[H:7],56.6701690912889
[C:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[C:4]=[C:5]([H:12])[H:13])[O:6][H:14])([H:10])[H:11])([H:7])([H:8])[H:9],68.18436294140679
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]([O:5][H:14])([H:16])[C:6]([H:15])=[C:7]1[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],92.15776661909749
[C:1]([O+:3]=[C:2]=[C:4]=[N-:5])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[O:3])[C:4]#[N:5])([H:6])([H:7])[H:8],47.615933899689296
[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C-:2]([O+:3]=[C:4]([O:5][C:6]#[C:7][H:13])[H:12])[H:11])([H:8])([H:9])[H:10],111.413677029892
[C:1]([C@@:2]1([H:11])[C:6]([N:5]=[C:4]=[C:3]([H:12])[H:13])=[C:7]1[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10],56.31792016470239
[O:1]=[C:2]([O:3][C:4]([C:5]#[C:6][H:10])([H:8])[H:9])[H:7]>>[O:1]=[C:5]1[C:4]([H:8])([H:9])[O:3][C:2]([H:7])=[C:6]1[H:10],109.389561799086
[C:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[N:4])=[C:5]=[N:6][H:10])([H:7])([H:8])[H:9],82.89511875355251
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@@:4]2([H:13])[C:5]([H:14])([H:15])[C@:6]1([H:16])[C:7]2([H:8])[H:17])[H:9],80.91258981536821
[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[N:1]1([H:7])[C@@:2]23[C@:3]1([H:8])[C@:4]2([H:9])[C:5]([H:10])([H:11])[O:6]3,110.532168265435
[C:3](=[C:4]=[O:5])([H:11])[H:12].[C:6]([O:7][H:15])([H:8])([H:13])[H:14].[O:1]=[C:2]([H:9])[H:10]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],54.342160324808304
[C:1]([O:7][C:6]([C:5]([C@@:3]([O:2][H:19])([C:4]([H:12])([H:13])[H:14])[H:11])([H:15])[H:16])([H:17])[H:18])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],85.10164328533843
[O:1]([C:2]([C@:3]1([O:4][H:12])[C:5]([H:10])([H:11])[O:6]1)([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],36.030561632648
[n:1]1([H:6])[c:2]([H:7])[c:3]([H:8])[n:4][n:5]1>>[N:1]1([H:6])[C:2]([H:7])([H:8])[C:3]#[N+:4][N-:5]1,82.5606983852032
[C:1]([C:2]([O:3][H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]1([H:13])([H:14])[C:5]([H:15])([H:16])[O:6][C:7]1([H:18])[H:19]>>[C:1]([C:2]([O:3][C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],86.9740790935445
[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N+:5]([H:10])([H:12])[C-:6]1[H:11])[H:7]>>[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7],25.158866525071794
